US08314092B2
To a solution of ethyl 1-[(2-amino-5-chloro-phenyl)methyl]-4-methyl-pyrrole-2-carboxylate (35 g, 119.55 mmoles) in dimethyl sulfoxide (120 mL) add potassium t-butoxide (14.76 g, 131.5 mmoles) over 10 minutes. Heat at 80° C. (oil-bath temperature) for 1 h. Allow to cool then pour onto water (400 mL). Collect the resulting brown powdery solid by filtration, washing well with water. Suck as dry as possible on the sinter then transfer to a dish and dry in a vacuum oven at 55° C. over phosphorus pentoxide overnight, to give 7-chloro-2-methyl-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one (22 g, 91%). MS (m/z): 247.1 (M+1).

reactant | ethyl 1-[(2-amino-5-chloro-phenyl)methyl]-4-methyl-pyrrole-2-carboxylate | 119.55 mmoles, 35 g | NC1=C(C=C(C=C1)Cl)CN1C(=CC(=C1)C)C(=O)OCC | C15H17ClN2O2
reactant | potassium t-butoxide | 131.5 mmoles, 14.76 g | CC(C)([O-])C.[K+]
solvent | dimethyl sulfoxide | 120 mL | CS(=O)C | C2H6OS
product | 7-chloro-2-methyl-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one | 22 g, 91% | ClC=1C=CC2=C(CN3C(C(N2)=O)=CC(=C3)C)C1 | C13H11ClN2O
